US06953790B2
Step B. Methyl N-[(benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serinate
Boron trifluoride diethyl etherate (0.10 mL, 0.84 mmol) was added to a solution of tert-butyl cyclopropylmethyl[(2S)-2-hydroxy-2-phenylethyl]carbamate (2.45 g, 8.39 mmol) and 1-benzyl 2-methyl(2R)-aziridine-1,2-dicarboxylate (1.97 g, 8.39 mmol) in chloroform (20 mL). After 3 h, the reaction was concentrated. Purification by silica gel chromatography (100% hexanes→30% ethyl acetate/hexanes) gave the title compound (1.21 g).

reactant | Boron trifluoride diethyl etherate | 0.84 mmol, 0.10 mL | B(F)(F)F.CCOCC
reactant | tert-butyl cyclopropylmethyl[(2S)-2-hydroxy-2-phenylethyl]carbamate | 8.39 mmol, 2.45 g | C1(CC1)CN(C(OC(C)(C)C)=O)C[C@H](C1=CC=CC=C1)O | C17H25NO3
reactant | 1-benzyl 2-methyl(2R)-aziridine-1,2-dicarboxylate | 8.39 mmol, 1.97 g | N1([C@H](C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C12H13NO4
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl N-[(benzyloxy)carbonyl]-O-{(1S)-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]-1-phenylethyl}-D-serinate | 1.21 g | C(C1=CC=CC=C1)OC(=O)N[C@H](CO[C@H](CN(CC1CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(=O)OC | C29H38N2O7
